US06936602B1
To a solution of methyl 7-bromo-2,3-dihydro-1-benzazepine-4-carboxylate (1.5 g) and 2-methoxybenzaldehyde (3.62 g) in 1,2-dichloroethane (50 ml) was added sodium triacetoxyborohydride (2.82 g), and the mixture was stirred under nitrogen atmosphere at room temperature for 1 day. Then, water was added to the mixture, and the mixture was extracted-with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was purified with silica gel column chromatography (hexane:ethyl acetate=5:1) to give methyl 7-bromo-1-(2-methoxybenzyl)-2,3-dihydro-1-benzazepine-4-carboxylate (1.62 g) as yellow oil.

reactant | methyl 7-bromo-2,3-dihydro-1-benzazepine-4-carboxylate | 1.5 g | BrC=1C=CC2=C(C=C(CCN2)C(=O)OC)C1 | C12H12BrNO2
reactant | 2-methoxybenzaldehyde | 3.62 g | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | sodium triacetoxyborohydride | 2.82 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 7-bromo-1-(2-methoxybenzyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 1.62 g | BrC=1C=CC2=C(C=C(CCN2CC2=C(C=CC=C2)OC)C(=O)OC)C1 | C20H20BrNO3
